US08211908B2
To a solution of 0.16 g of 1-(2-(4-((3-fluoro-4-methylbenzyl)amino)piperidin-1-yl)ethyl)-1,7-naphthyridin-2(1H)-one in 3 mL of ethyl acetate, 5 mL of a 4.0 mol/L hydrogen chloride/ethyl acetate solution was added at room temperature. Thereto was added 2 mL of ethyl acetate, the mixture was stirred at the same temperature for 10 minutes, and the solvent was distilled off under reduced pressure. Ethyl acetate was added to the resultant residue, and the solid was filtered off to obtain 0.18 g of 1-(2-(4-((3-fluoro-4-methylbenzyl)amino)piperidin-1-yl)ethyl)-1,7-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | 1-(2-(4-((3-fluoro-4-methylbenzyl)amino)piperidin-1-yl)ethyl)-1,7-naphthyridin-2(1H)-one | 0.16 g | FC=1C=C(CNC2CCN(CC2)CCN2C(C=CC3=CC=NC=C23)=O)C=CC1C | C23H27FN4O
reactant | hydrogen chloride ethyl acetate | 4.0 mol/L | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-(4-((3-fluoro-4-methylbenzyl)amino)piperidin-1-yl)ethyl)-1,7-naphthyridin-2(1H)-one hydrochloride | 0.18 g | Cl.FC=1C=C(CNC2CCN(CC2)CCN2C(C=CC3=CC=NC=C23)=O)C=CC1C | InChI=1S/C23H27FN4O.ClH/c1-17-2-3-18(14-21(17)24)15-26-20-7-10-27(11-8-20)12-13-28-22-16-25-9-6-19(22)4-5-23(28)29;/h2-6,9,14,16,20,26H,7-8,10-13,15H2,1H3;1H
